US07432255B2
b) Step 2: Toluene-4-sulfonic acid piperidin-3-ylmethyl ester, hydrochloride
A mixture of 8.5 g (23 mmol) 3-(toluene-4-sulfonyloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester and 28.7 mL (115 mmol) 4N HCl in dioxane in 30 mL dioxane was evaporated to dryness. This yielded 7.57 g (97%) of the title compound as viscous yellow oil which was used without further purification. MS(m/e): 270 (MH+).

reactant | 3-(toluene-4-sulfonyloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester | 23 mmol, 8.5 g | C(C)(C)(C)OC(=O)N1CC(CCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C18H27NO5S
reactant | HCl | 115 mmol, 4N, 28.7 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | Toluene-4-sulfonic acid piperidin-3-ylmethyl ester, hydrochloride | Cl.N1CC(CCC1)COS(=O)(=O)C1=CC=C(C=C1)C | InChI=1S/C13H19NO3S.ClH/c1-11-4-6-13(7-5-11)18(15,16)17-10-12-3-2-8-14-9-12;/h4-7,12,14H,2-3,8-10H2,1H3;1H
